US07179801B2
A solution of ethyl (E)-3-(1-methyl-5-triphenylmethylaminopyrazol-4-yl)acrylate (60 g, 137 mmol) in ethanol (700 ml) was treated with 10% palladium carbon (6.0 g) under a hydrogen atmosphere at room temperature for 3 hours. After the catalyst was filtered off, the filtrate was concentrated in vacuo. The residue was triturated with hexane and dried in vacuo to give ethyl 3-(1-methyl-5-triphenylmethylaminopyrazol-4-yl)propionate (63 g) as a colorless solid.

reactant | ethyl (E)-3-(1-methyl-5-triphenylmethylaminopyrazol-4-yl)acrylate | 137 mmol, 60 g | CN1N=CC(=C1NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)/C=C/C(=O)OCC | C28H27N3O2
solvent | ethanol | 700 ml | C(C)O | C2H6O
catalyst | palladium carbon | 6.0 g | [C].[Pd]
product | ethyl 3-(1-methyl-5-triphenylmethylaminopyrazol-4-yl)propionate | 63 g | CN1N=CC(=C1NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CCC(=O)OCC | C28H29N3O2
